US08183380B2
[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-thiourea
1-Benzoyl-3-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-thiourea (1.5 g, 3.4 mmol) was suspended in 50 mL methanol. 4.1 mL 1N sodium hydroxide solution was added and the reaction mixture was refluxed for 2 h. The reaction mixture was diluted with 80 mL water and extracted with dichloromethane (2×100 mL). The organic phases were pooled, dried with sodium sulfate and evaporated. The residue was recrystallized from dichloromethane and diethylether. The title compound (660 mg, 58%) was obtained as an off-white solid; MS: m/e=335.3 (M+H+).

reactant | 1-Benzoyl-3-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-thiourea | 3.4 mmol, 1.5 g | C(C1=CC=CC=C1)(=O)NC(=S)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12 | C26H22N4OS
reactant | sodium hydroxide | 1N, 4.1 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 80 mL | O | H2O
product | [2-((R)-Indan-1-ylamino)-quinolin-6-yl]-thiourea | 660 mg, 58% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=S)N | C19H18N4S
